US09029405B2
Step 2: 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylic acid
A 5 N aqueous solution of NaOH (1.5 mL, 7.5 mmol) was added into a solution of methyl 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylate (1.4 g, 5.1 mmol) in EtOH (15 mL). The resulting mixture was heated at 70° C. for 1 hour, and then evaporated. The residue was taken up with water (25 mL) and a 5N aqueous solution of HCl (3 mL), and then extracted with MTBE (2×50 mL). The organic layers were washed with brine (25 mL), combined, dried (MgSO4) and concentrated reduced pressure to give the title compound as a white powder (1.3 g, 93%). HPLC (Method A) Rt 4.2 min (purity: 98.9%). LC/MS (Method B): 261.1 (M−H)−. 1H NMR (DMSO-d6, 300 MHz) δ 13.1 (s, 1H), 7.90 (s, 1H), 7.82 (dd, J=7.9, 1.4 Hz, 1H), 7.74 (m, 1H), 7.66-7.55 (m, 2H), 7.26 (m, 2H), 6.55 (t, J=55 Hz, 1H), 2.05 (s, 3H).

reactant | NaOH | 7.5 mmol, 1.5 mL | [OH-].[Na+]
reactant | methyl 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylate | 5.1 mmol, 1.4 g | FC(C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)C)F | C16H14F2O2
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2′-(difluoromethyl)-2-methylbiphenyl-4-carboxylic acid | 1.3 g, 93% | FC(C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)C)F | C15H12F2O2
